US04282212
1-(N-2-Thiophene-carbonyl-carbamoyl)-2-cyanoaziridine.
2.76 g. Thiophene-2-carbonyl isocyanate are dissolved in 45 ml. anhydrous toluene and mixed dropwise, while stirring, at 20° to 30° C. with a solution of 1.22 g. 2-cyanoaziridine in 30 ml. toluene. Stirring is continued for 1 hour at ambient temperature and the precipitate obtained is filtered off with suction, washed with toluene and subsequently triturated with diethyl ether. There are thus obtained 3.4 g. 1-(N-2-thiophene-carbonyl-carbamoyl)-2-cyanoaziridine; m.p. 156°-160° C., which still contains a little thiophene-2-carboxylic acid amide.

reactant | Thiophene-2-carbonyl isocyanate | S1C(=CC=C1)C(=O)N=C=O | C6H3NO2S
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-2-Thiophene-carbonyl-carbamoyl)-2-cyanoaziridine | S1C(=CC=C1)C(=O)NC(=O)N1C(C1)C#N | C9H7N3O2S
